US08629160B2
2-Chloro-1-phenylethanone (42.6 mg, 0.27 mmol) was added to solution of (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-3-yl)-2-(methyl(phenyl)amino)acetate (C35) (112 mg, 0.27 mmol) in acetonitrile (3 ml). The reaction was stirred at room temperature for 3 hours, and then the solvent was evaporated under vacuum. The residue was triturated with Et2O, filtered and dried to obtain (3R)-3-(2-(benzo[b]thiophen-3-yl)-2-(methyl(phenyl)amino)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride (112.2 mg, 72.6% yield).

reactant | 2-Chloro-1-phenylethanone | 0.27 mmol, 42.6 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-3-yl)-2-(methyl(phenyl)amino)acetate | 0.27 mmol, 112 mg | S1C2=C(C(=C1)C(C(=O)O[C@H]1CN3CCC1CC3)N(C3=CC=CC=C3)C)C=CC=C2 | C24H26N2O2S
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | (3R)-3-(2-(benzo[b]thiophen-3-yl)-2-(methyl(phenyl)amino)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride | 112.2 mg, 72.6% yield | [Cl-].S1C2=C(C(=C1)C(C(=O)O[C@H]1C[N+]3(CCC1CC3)CC(C3=CC=CC=C3)=O)N(C3=CC=CC=C3)C)C=CC=C2 | InChI=1S/C32H33N2O3S.ClH/c1-33(25-12-6-3-7-13-25)31(27-22-38-30-15-9-8-14-26(27)30)32(36)37-29-21-34(18-16-24(29)17-19-34)20-28(35)23-10-4-2-5-11-23;/h2-15,22,24,29,31H,16-21H2,1H3;1H/q+1;/p-1/t24?,29-,31?,34?;/m0./s1
